Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Zestril / Hydrochlorothiazide / Monopril / Vioxx / Celebrex / 
Mobic / Motrin / Bactrim / Keflex
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with history of DM, HTN, HLD, pAFib on 
rivaroxaban, HFpEF, and CAD s/p multiple PCI and CABG in ___ 
(LIMA to LAD, RIMA to RCA, RA to OM) and a recent cath which 
showed patent grafts with severe native coronary disease 
transferred from ___ with chest pain.

Patient was recently admitted to ___. E___ with angina s/p cath on 
___ that showed severe 3VD (proximal and mid LAD 80% diffuse 
stenosis. OM1 80% ostial stenosis. Mid CX 70% stenosis. OM2 80% 
in-stent restenosis. Distal CX severely diffusely diseased. OM3 
totally occluded. Distal OM3 fills via a patent graft. RCA 
diffusely diseased with ostial and 80% stenosis in distal 
vessel) with stents patent. 
Patent was offered PCI to OM2 and mid CX without guarantee that 
it would palliate symptoms. She opted for medical management 
with possible PCI if refractory. 

Patient presented to OSH with worsening angina on ___ 
unrelieved by rest or SL nitro. EKG was unchanged from prior per 
report. She had persistent chest pain ___ and was started on a 
nitro gtt and heparin gtt and transferred to ___ for further 
eval.

In the ED, initial vitals were: 96.7 68 125/69 16 96% RA  
- Exam notable for: vss airway intact  
- Labs notable for: H/H 9.9/31.3, PTT: 58.6 
- Imaging: not obtained.

- Patient was given: Nitro gtt and heparin gtt were continued 
and patient was admitted to cardiology service for further 
management.

- Vitals prior to transfer: 98.9 67 138/69 18 98% RA  

Upon arrival to the floor, patient reports that her chest pain 
has resolved on the nitro gtt. She has no complaints.

 
Past Medical History:
- CAD s/p multiple PCI and CABG in ___ (LIMA to LAD, RIMA to 
RCA, RA to OM); recent LHC ___ with patent grafts with severe 
native coronary disease
- Afib on rivaroxaban
- HFpEF
- DM
- HTN
- HLD
- PVD
- Obesity 
 
Social History:
___
Family History:
CAD (brother died VF arrest at ___, father had first MI at age 
___, had 4V bypass mid ___, died in ___, mother had MI in ___, 
died in ___, also had multiple sclerosis) DM2, HTN.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
Vital Signs: T 97.9, BP 116/66, HR 69, RR 18, O2Sat 98%RA
General: Alert, oriented, no acute distress.
HEENT: Sclerae anicteric.
Neck: Supple. JVP not elevated.
CV: Regular rate and rhythm. Soft systolic murmur (I-II/VI)
Lungs: Clear to auscultation bilaterally, no wheezes, rales  
Abdomen: Soft, non-tender, non-distended
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

DISCHARGE PHYSICAL EXAM:
=========================
General: pleasant woman, sitting comfortably on bed, alert and 
awake, speaking in full sentences, in NAD.
HEENT: Sclerae anicteric, EOMI, MMM, no OP lesions
CV: RRR, nml s1/s2, unable to appreciate any murmurs/rubs/or 
gallops. No thrills or lifts. 
Lungs: CTAB, no wheezes, rales, or rhonchi. No increased work of 
breathing or use of accessory muscles.   
Abdomen: +BS, soft, NTND, no rebound or guarding
Ext: WWP, 2+ R radial pulse, 2+ femoral pulses b/l. No 
peripheral edema, clubbing, or cyanosis.  
 
Pertinent Results:
ADMISSION LABS: 
================
___ 03:40AM BLOOD WBC-7.7 RBC-3.29* Hgb-9.9* Hct-31.3* 
MCV-95 MCH-30.1 MCHC-31.6* RDW-15.5 RDWSD-53.5* Plt ___
___ 03:40AM BLOOD Neuts-54.4 ___ Monos-10.7 Eos-3.1 
Baso-0.7 Im ___ AbsNeut-4.17 AbsLymp-2.38 AbsMono-0.82* 
AbsEos-0.24 AbsBaso-0.05
___ 03:40AM BLOOD ___ PTT-58.6* ___
___ 03:40AM BLOOD Glucose-98 UreaN-19 Creat-0.7 Na-140 
K-4.1 Cl-108 HCO3-20* AnGap-16
___ 10:54AM BLOOD CK(CPK)-72
___ 03:40AM BLOOD cTropnT-<0.01
___ 03:40AM BLOOD Phos-4.1 Mg-1.6
___ 11:02AM BLOOD Lactate-0.8

IMAGING: 
========
___ Imaging CHEST (PA & LAT) 
No acute cardiopulmonary abnormalities.

___ Cardiac Perfusion 
IMPRESSION:  Moderate anteroseptal perfusion defect with partial 
reversibility.  
Borderline enlarged left ventricle.  EF 52%. 

MICRO:
======
___ URINE culture - no growth 

___ Blood culture - negative to date (___)

DISCHARGE LABS:
================
___ 05:38AM BLOOD WBC-7.8 RBC-3.39* Hgb-10.2* Hct-32.3* 
MCV-95 MCH-30.1 MCHC-31.6* RDW-15.8* RDWSD-54.6* Plt ___
___ 05:38AM BLOOD Plt ___
___ 05:38AM BLOOD ___ PTT-30.7 ___
___ 05:38AM BLOOD Glucose-83 UreaN-21* Creat-0.6 Na-143 
K-5.0 Cl-107 HCO3-23 AnGap-18
___ 05:38AM BLOOD Calcium-9.5 Phos-4.6* Mg-1.7
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of CAD (s/p PCI x16 
and CABG in ___ recent cardiac angiography with 80% stenosis 
OM1 and 70% stenosis LCx), HFpEF, pAfib (on eliquis), DM, HTN, 
HLD, and strong family history of CAD who presented to ___ 
___ with chest pain then transferred to ___ for further 
eval of unstable angina.

# Chest pain: 
Patient with worsening chest pain with exertion without EKG 
changes or trop, concerning for unstable angina. She was started 
on heparin and nitro gtt's. Upon admission she was chest pain 
free but developed CP with minimal exertion. Her home imdur was 
increased to 120mg daily and amlodipine was increased to 5mg 
daily. She underwent persantine MIBI which showed a partially 
reversible anteroseptal perfusion defect. However, her cath 
results from ___ (done at ___ 
did not correlate with the location of this perfusion defect. 
(Cath images were uploaded to ___ system and reviewed. There 
is some revascularization possible in the ___ territory but high 
risk and of questionable benefit. All grafts patent.) She was 
asymptomatic after medication optimization so we opted to 
proceed with that for now but if symtpoms recur rotablade and 
PCI of the LCx/OM can be considered and her films will be in 
Lifeimgae for our intevrentionalists to review. .

___ Cor angio report (___:
Severe 3VD, proximal and mid LAD have an 80% diffuse stenosis. 
OM1 with 80% ostial stenosis. Mid CX with 70% stenosis. OM2 with 
80% in-sttent restenosis. Distal CX is severely diffusely 
diseased and OM3 is totally occluded. The distal OM3 fills via a 
patent graft. RCA diffusely diseased with ostial and 80% 
stenosis in distal vessel. 

TRANSITIONAL ISSUES:
[ ] Lisinopril was decreased from 5mg BID to 5mg daily as she 
was normotensive after increasing her isosorbide mononitrate. 
Please check BP at followup and adjust as appropriate.
[ ] Amlodipine was increased from 2.5mg to 5mg daily
[ ] Isosorbide mononitrate extended-release was increased to 
120mg daily
[ ] If symptoms persist, please consider outpatient PCI for LCx 
disease
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 40 mg PO QPM 
2. Omeprazole 20 mg PO BID 
3. Metoprolol Succinate XL 50 mg PO BID 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Lisinopril 5 mg PO BID 
6. Isosorbide Mononitrate (Extended Release) 30 mg PO BID 
7. Escitalopram Oxalate 20 mg PO DAILY 
8. amLODIPine 2.5 mg PO DAILY 
9. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN Pain - 
Moderate 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
11. Fexofenadine 180 mg PO DAILY 
12. Aspirin 81 mg PO DAILY 
13. Calcium Carbonate 500 mg PO DAILY 
14. Vitamin D 1000 UNIT PO DAILY 
15. Apixaban 5 mg PO BID 
16. Magnesium Oxide 400 mg PO BID 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
RX *isosorbide mononitrate 120 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
3.  Lisinopril 5 mg PO DAILY  
4.  Apixaban 5 mg PO BID  
5.  Aspirin 81 mg PO DAILY  
6.  Calcium Carbonate 500 mg PO DAILY  
7.  Escitalopram Oxalate 20 mg PO DAILY  
8.  Fexofenadine 180 mg PO DAILY  
9.  Magnesium Oxide 400 mg PO BID  
10.  MetFORMIN (Glucophage) 1000 mg PO BID  
11.  Metoprolol Succinate XL 50 mg PO BID  
12.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
13.  Omeprazole 20 mg PO BID  
14.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN Pain 
- Moderate  
15.  Rosuvastatin Calcium 40 mg PO QPM  
16.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Chest pain

Secondary Diagnoses:
Atrial fibrillation
Stable coronary artery disease
Diabetes mellitus type 2
Hypertension
Chronic back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___ 
___.

Why was I admitted to the hospital?  
-You were admitted because you had chest pain.  

What happened while I was in the hospital?  
-We optimized your blood pressure and other cardiac medications.
-You went for a stress test, which was not concerning for 
coronary blockages requiring urgent intervention.

What should I do after leaving the hospital?  
-Please take your medications as instructed in this packet.
-Please follow up with your cardiologist to make sure you are 
doing well on the new medication regimen, as well as to discuss 
next steps based on the results of your catheterization from 
___ done at ___.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team
 
Followup Instructions:
___